US04098898
N-Cyano-N'-(2-methoxyethyl)-N"-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine
N-Cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea (4.05 g) was dissolved in 2-methoxyethylamine (15 ml) and heated under reflux for 6 hours. Evaporation of the solvent and chromatographic purification of the residue on a column of silica gel with elution by chloroform and then with chloroform/methanol (20:1) yielded the title compound as a pale yellow oil (2.7 g). (Found: C, 47.8; H, 7.0; N, 28.0; S, 11.2% C12H20N6OS requires: C, 48.6; H, 6.8; N, 28.4; S, 10.8%). n.m.r. analysis in DMSO-d6 at 100 mHz:

reactant | N-Cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea | 4.05 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
reactant | 2-methoxyethylamine | 15 ml | COCCN | C3H9NO
product | N-Cyano-N'-(2-methoxyethyl)-N"-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]guanidine | 2.7 g | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCCOC | C12H20N6OS
